US05721264
N-[1-(2-phenylethyl)-5-(2-methylphenyl)-4-ethoxycarbonylpyrazol-3-yl]-N-[(2'-(N-triphenylmethyl-(1H-tetrazol-5-yl))biphenyl-4-yl)methyl]-n-propylamine
0.23 ml of 1.6M n-butyl lithium/hexane solution were dropwise added to THF solution (5 ml) containing 208 mg of N-[1-(2-phenylethyl)-5-bromo-4-ethoxycarbonylpyrazol-3-yl]-N-[(2'-(N-triphenylmethyl-(1H-tetrazol-5-yl))biphenyl-4-yl)methyl]-n-propylamine and 0.04 ml of 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone and stirred for 10 minutes, while cooling with dry ice-acetone. 0.74 ml of 0.5M zinc chloride/THF solution were added thereto and stirred for 30 minutes at room temperature. Then, THF solution (5 ml) containing 83 mg of m-iodotoluene and 36 mg of tetrakis(triphenylphosphine)palladium(0) were added thereto and stirred for 28 hours at 60° C. 10 ml of ammonium chloride were added to the reaction solution, THF was distilled off under reduced pressure, and the resultant was extracted with 50 ml of dichloromethane. After dried over magnesium sulfate, the solvent was distilled off under reduced pressure. The resulting residue was subjected to silica gel column chromatography (n-hexane-ethyl acetate=5:1) to obtain 171 mg of the intended compound as a pale yellow, amorphous solid.

reactant | n-butyl lithium hexane | 1.6M, 0.23 ml | C(CCC)[Li].CCCCCC
reactant | N-[1-(2-phenylethyl)-5-bromo-4-ethoxycarbonylpyrazol-3-yl]-N-[(2'-(N-triphenylmethyl-(1H-tetrazol-5-yl))biphenyl-4-yl)methyl]-n-propylamine | 208 mg | C1(=CC=CC=C1)CCN1N=C(C(=C1Br)C(=O)OCC)N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC | C50H46BrN7O2
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | m-iodotoluene | 83 mg | IC=1C=C(C=CC1)C | C7H7I
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
catalyst | zinc chloride THF | 0.5M, 0.74 ml | [Cl-].[Zn+2].[Cl-].C1CCOC1
catalyst | tetrakis(triphenylphosphine)palladium(0) | 36 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 0.04 ml | CN1C(N(CCC1)C)=O | C6H12N2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | N-[1-(2-phenylethyl)-5-(2-methylphenyl)-4-ethoxycarbonylpyrazol-3-yl]-N-[(2'-(N-triphenylmethyl-(1H-tetrazol-5-yl))biphenyl-4-yl)methyl]-n-propylamine | 171 mg | C1(=CC=CC=C1)CCN1N=C(C(=C1C1=C(C=CC=C1)C)C(=O)OCC)N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC | C57H53N7O2
